US08426414B2
To a suspension of N-Boc-L-isoleucinol (5 g, 23 mmol) in dichloromethane (250 mL) and DMSO (50 mL) at 0° C. was added TEA (10 mL, 73 mmol) followed by slow addition of the solution of sulfur trioxide pyridine complex (11 mL, 69 mmol) in DMSO (50 mL) via syringe. The reaction mixture was concentrated and was diluted with ether (200 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×200 mL), which was then washed with brine (150 mL), water (150 mL) and NaHCO3 (150 mL) sequentially. The organic layers were dried over MgSO4, filtered and concentrated. The residue was dried on pump to afford ((1S,2S)-1-formyl-2-methyl-butyl)-carbamic acid tert-butyl ester (4.47 g, 90% yield) as light-yellow clear liquid.

reactant | N-Boc-L-isoleucinol | 23 mmol, 5 g | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)CO | C11H23NO3
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | ((1S,2S)-1-formyl-2-methyl-butyl)-carbamic acid tert-butyl ester | 4.47 g, 90% yield | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)C=O)=O | C11H21NO3
